US05538988
A suspension of 3-(1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazole-5-carbaldehyde oxime (0.158 g, 0.58 mmol), prepared as in Example 22, in 20 nil of THF was cooled to 0° C. and LAH (1.0 M, 1.16 mL, 1.16 mmol) in THF was added slowly. The mixture was stirred at 0° C. for 1 hour and then saturated ammonium chloride, water and ethyl acetate were added. The aqueous layer was separated and extracted with ethyl acetate. The combined ethyl acetate was dried over magnesium sulfate and concentrated by evaporation. Purification of the residue by flash chromatography (elution: 3-10% methanol/methylene chloride) gave 4-aminomethyl-1-(1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione, m.p. 197°-200° C.

reactant | 3-(1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazole-5-carbaldehyde oxime | 0.58 mmol, 0.158 g | C1C(CCC2=CC=CC=C12)N1C(NC(=C1)C=NO)=S | C14H15N3OS
reactant | LAH | 1.16 mmol, 1.0 M, 1.16 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-aminomethyl-1-(1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione | NCC=1NC(N(C1)C1CC2=CC=CC=C2CC1)=S | C14H17N3S
